US04814341
N,N-Dimethyl-5-(2-bromoacetyl)furan-2-carboxamide
A mixture of 1.81 g. (0.01 mole) of N,N-dimethyl-5-acetylfuran-2-carboxamide, 1.59 g. (0.01 mole) of bromine and 40 ml. of glacial acetic acid was stirred at room temperature for 18 hours, and then the acetic acid was removed by evaporation in vacuo. The residue was partitioned between water and ethyl acetate and the layers were separated. The aqueous layer was further extracted with ethyl acetate, and the combined ethyl acetate solutions were washed with sodium bicarbonate solution followed by water, dried (Na2SO4) and evaporated in vacuo. This afforded 2.6 g. of the title compound as a solid.

reactant | N,N-dimethyl-5-acetylfuran-2-carboxamide | 0.01 mole | CN(C(=O)C=1OC(=CC1)C(C)=O)C | C9H11NO3
reactant | bromine | 0.01 mole | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N,N-Dimethyl-5-(2-bromoacetyl)furan-2-carboxamide | CN(C(=O)C=1OC(=CC1)C(CBr)=O)C | C9H10BrNO3
